US08957064B2
Step 4: 4-(2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde
2.3 g (9.4 mmol) 7-Chloro-2-methyl 6-phenyl-imidazo[1,2-a]pyrimidine is given in 32 mL dimethoxyethane (not completely dissolved). 18.5 mL Na2CO3 solution (10%) and 1.56 g (10.4 mmol) 4-formylphenylboronic acid are added. After addition of 0.35 g (0.43 mmol) 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) the reaction mixture is purged 3× with argon and heated to 90° C. After 18 h stirring at 90° C. complete dissolution has taken place. The reaction mixture is cooled down and treated with 100 mL water and 150 mL dichloromethane. After vigorous stirring at rt for one hour the organic phase is separated, washed twice with water (100 mL each) and dried (Na2SO4). After removal of the solvent the crude product is purified via chromatography (Isolute, dichloromethane/methanol). 1.82 g (61.5%) of the pure compound and 0.82 g (27.7%) of the product containing traces of the starting material have been obtained.

reactant | 7-Chloro-2-methyl 6-phenyl-imidazo[1,2-a]pyrimidine | 9.4 mmol, 2.3 g | ClC1=NC=2N(C=C1C1=CC=CC=C1)C=C(N2)C | C13H10ClN3
reactant | Na2CO3 | 18.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-formylphenylboronic acid | 10.4 mmol, 1.56 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
solvent | dimethoxyethane | 32 mL | C(OC)COC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) | 0.43 mmol, 0.35 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C1 | C20H15N3O
